US07959958B2
a) Succinic acid monophenethyl ester
In a 500 mL round bottom flask, fitted with a reflux, condenser, succinic anhydride (10.03 g, 1.2 eq.) and dimethylaminopyridine (10.2 g, 1 eq.) and benzyl alcohol (9.01 g, 1 eq.) in MTBE (250 mL) were combined. The reaction mixture was placed under inert atmosphere and stirred in an oil bath at 68° C. for 4 hours. The reaction was then quenched with a solution of 10% NaHCO3 and extracted with MTBE. The organic layer was washed with NaHCO3 and brine. The organic layer was collected, dried using MgSO4, and concentrated to give a white solid. The crude product was purified using column chromatography to give 14.1 g of white crystals.

reactant | succinic anhydride | 10.03 g, 1.2 eq. | C1(CCC(=O)O1)=O | C4H4O3
reactant | dimethylaminopyridine | 10.2 g, 1 eq. | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | benzyl alcohol | 9.01 g, 1 eq. | C(C1=CC=CC=C1)O | C7H8O
reactant | MTBE | 250 mL | CC(C)(C)OC | C5H12O
product | Succinic acid monophenethyl ester | 14.1 g | C(CC1=CC=CC=C1)OC(CCC(=O)O)=O | C12H14O4
